US04536346
4-[6-(p-Chlorophenyl)hexanamido]benzoic acid, ethyl ester
A mixture of 55 g. of mossy zinc, 5.4 g. of mercuric chloride, 90 ml. of water, and 3 ml. of concentrated hydrochloric acid is stirred for 5 minutes, and the solution is decanted. To the residue is suquentially added 35 ml. of water, 80 ml. of 37% hydrochloric acid, 45 ml. of toluene, and 30.0 g. of 5-p-chlorobenzoylvalerica cid. This mixture is refluxed at 115° C. for 28 hours, with the addition of 25 ml. of concentrated hydrochloric acid at 6 hour intervals. The solution is cooled, diluted with 100 ml. of water, and the organic layer is separated and saved. The aqueous layer is extracted with three 100 ml. portions of ether. The ether extracts and organic layer are combined, washed with 100 ml. of water, then 100 ml. of brine, dried over magnesium sulfate, and evaporated to an oil. This oil is distilled on a Kugelrohr apparatus collecting the fraction that boils at 160°-170° C. (60 mm.), giving 22.0 g. of 6-(p-chlorophenyl)hexanoic acid as an oil. To a solution of 19.0 g. of this oil in 200 ml. of benzene is added dropwise 33.1 g. of sulfonyl chloride. The mixture is refluxed 5 hours, cooled, and evaporated three times from 250 ml. of benzene, to yield 21.09 g. of brown liquid. This liquid is dissolved in 200 ml. of dichloromethane, and a solution of 28.4 g. of benzocaine in 200 ml. of dichloromethane is added, and the mixture is stirred overnight. The mixture is filtered, and the filtrate is extrcted with 100 ml. of 10% hydrochloric acid, 100 ml. of saturated sodium bicarbonate solution, and 100 ml. of brine; then it is dried over magnesium sulfate and evaporated to a solid. The solid is boiled in 400 ml. of toluene, treated with 1 g. of charcoal, filtered, and boiled down, giving 23.0 g. of crystalline solid. A 4.1 g. portion of this solid, 100 mg. of 10% palladium on carbon, and 50 ml. of ethyl acetate are hydrogenated in a Parr apparatus giving, after crystallization from toluene, 3.81 g. of the desired product as colorless crystals, m.p. 107°-108° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 6-(p-chlorophenyl)hexanoic acid | ClC1=CC=C(C=C1)CCCCCC(=O)O | C12H15ClO2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | benzocaine | CCOC(=O)C=1C=CC(=CC1)N | C9H11NO2
catalyst | palladium on carbon | [Pd] | Pd
catalyst | zinc | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 4-[6-(p-Chlorophenyl)hexanamido]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)CCCCCC(=O)NC1=CC=C(C(=O)OCC)C=C1 | C21H24ClNO3
